US05864039
N-(5-Bromopentyl)phthalimide (60 g) was added to a solution of 4-amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (75.1 g) and potassium carbonate (112 g) in dimethylformamide (800 ml), and the mixture was stirred at 75°-80° C. for 8 hr. Insoluble matter was filtered off and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 60.2 g of 4-amino-5-chloro-N-(1-(5-(2,3-dihydro-1,3-dioxo-1H-isoindol-2-yl)pentyl)piperidin-4-ylmethyl)-2-methoxybenzamide.

reactant | N-(5-Bromopentyl)phthalimide | 60 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | 4-amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 75.1 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 112 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-N-(1-(5-(2,3-dihydro-1,3-dioxo-1H-isoindol-2-yl)pentyl)piperidin-4-ylmethyl)-2-methoxybenzamide | 60.2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C27H33ClN4O4
